US05424478
4-Acetoxy-2-methyl-1-chloro-2-butene (8.13 g, 50 mmol) was dissolved in dimethylformamide (25 ml) and placed in a 100 ml four neck flask. To this were added sodium formate powder (6.80 g, 100 mmol, 2 equivalents) and tetra n-butylammonium bromide (0.81 g, 2.5mmol, 5 mol %). The mixture was stirred at 40° C. for 24 hours under heating. After completion of the reaction, the reaction mixture was poured into ice-cooled water (about 30 ml)and extracted with ether (50 ml) three times. The extracted ether layer was dried over anhydrous sodium sulfate. Evaporation of the ether followed by purification by silica gel column chromatography (ethyl acetate-hexane (=1:3)) gave 4-acetoxy-2-methyl-2-buten-1-ol formate (8.18 g, 47.5 mmol; Yield: 95.0%).

reactant | 4-Acetoxy-2-methyl-1-chloro-2-butene | 50 mmol, 8.13 g | C(C)(=O)OCC=C(CCl)C | C7H11ClO2
reactant | sodium formate | 100 mmol, 6.80 g, 2 equivalents | C(=O)[O-].[Na+]
reactant | water | about 30 ml | O | H2O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
catalyst | tetra n-butylammonium bromide | 2.5mmol, 0.81 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-acetoxy-2-methyl-2-buten-1-ol formate | 47.5 mmol, 8.18 g, Yield: 95.0% | C(=O)OCC(=CCOC(C)=O)C | C8H12O4
